US06339091B1
30.c. ethyl 2,7-dichloro-4-(chloromethyl)-6-methoxy-3-quinolinecarboxylate
A suspension of ethyl 7-chloro-4-(chloromethyl)-6-methoxy-2-oxo-1,2-dihydro-3-quinolinecarboxylate (116.7 g, 50 mmol) in phosphoryl chloride (100 ml) is heated to reflux for 6 hours. The phosphoryl chloride is distilled off. The residue is taken up in water and agitation is carried out for 30 min. The precipitate is filtered out and washed with water until neutrality. The precipitate is taken up in dichloromethane and with a saturated solution of sodium chloride. After filtering through a bed of celite the filtrate is decanted. The organic phase is washed again with a saturated solution of sodium chloride, followed by drying over magnesium sulphate, filtering and evaporating under reduced pressure. 15.88 g of a brown oil is obtained.

reactant | ethyl 7-chloro-4-(chloromethyl)-6-methoxy-2-oxo-1,2-dihydro-3-quinolinecarboxylate | 50 mmol, 116.7 g | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C(=O)OCC)CCl)OC | C14H13Cl2NO4
reactant | phosphoryl chloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 2,7-dichloro-4-(chloromethyl)-6-methoxy-3-quinolinecarboxylate | 15.88 g | ClC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)CCl)OC)Cl | C14H12Cl3NO3
